US06887896B1
1-(3-Ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-propan-1-one (Compound A-26)
To a solution of 1-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone (Compound A-25, 0.17 g, 0.68 mmol) in THF (33 mL) at −78° C. was added lithium diisopropylamide (1.5 M in cyclohexane, 0.55 mL 0.82 mmol). The cold bath was removed and the mixture was stirred for 2 h. The mixture was cooled to −78° C. again and methyl iodide (0.13 mL, 2.04 mmol) was added. The mixture was stirred at room temperature for 12 h then quenched with a saturated solution of NH4Cl and extracted with diethyl ether. The combined ethereal layers were washed with water, brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude residue was purified by flash chromatography (silica gel, 2% ethyl acetate in hexane) to give the title compound as a yellow oil.

reactant | 1-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone | 0.68 mmol, 0.17 g | C(C)OC=1C(=CC=2C=CCC(C2C1)(C)C)C(C)=O | C16H20O2
reactant | lithium diisopropylamide | 0.82 mmol, 1.5 M, 0.55 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 2.04 mmol, 0.13 mL | CI | CH3I
solvent | THF | 33 mL | C1CCOC1 | C4H8O
product | 1-(3-Ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-propan-1-one | C(C)OC=1C(=CC=2C=CCC(C2C1)(C)C)C(CC)=O | C17H22O2
